US07553842B2
Step A: Preparation of 3-(3-hydroxypropylsulfanyl)-dihydrofuran-2-one:
3-Mercaptopropan-1-ol (1.61 g, 17.4 mmol) was dissolved in acetone (40 mL) followed by addition of cesium carbonate (5.67 g, 17.4 mmol) and 3-bromo-dihydrofuran-2(3H)-one (1.63 ml, 17.4 mmol). The suspension was stirred vigorously for 40 hours. The reaction was filtered through silica gel, rinsed with acetone and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 70-80% ethyl acetate/hexanes. Recovered the desired product as an oil (2.1 g, 71%).

reactant | 3-Mercaptopropan-1-ol | 17.4 mmol, 1.61 g | SCCCO | C3H8OS
reactant | cesium carbonate | 17.4 mmol, 5.67 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromo-dihydrofuran-2(3H)-one | 17.4 mmol, 1.63 ml | BrC1C(OCC1)=O | C4H5BrO2
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 3-(3-hydroxypropylsulfanyl)-dihydrofuran-2-one | OCCCSC1C(OCC1)=O | C7H12O3S
